US08039450B2
A mixture of 4-bromo-3-(methoxymethoxymethyl)phenol (2.47 g, 10.0 mmol), 4-cyanobenzyl bromide (1.88 g, 9.50 mmol), and potassium carbonate (1.66 g, 12.0 mmol) in N,N-dimethylformamide (20 mL) was stirred at 70° C. for overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 4-[4-bromo-3-(methoxymethoxymethyl)phenoxymethyl]benzonitrile (1.88 g, 95%).

reactant | 4-bromo-3-(methoxymethoxymethyl)phenol | 10.0 mmol, 2.47 g | BrC1=C(C=C(C=C1)O)COCOC | C9H11BrO3
reactant | 4-cyanobenzyl bromide | 9.50 mmol, 1.88 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | potassium carbonate | 12.0 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-[4-bromo-3-(methoxymethoxymethyl)phenoxymethyl]benzonitrile | 1.88 g, 95% | BrC1=C(C=C(OCC2=CC=C(C#N)C=C2)C=C1)COCOC | C17H16BrNO3
